US05475106
Using a procedure similar to that described in Example 1, but starting with tert-butyl 2-[2-amino-N-(2-phenoxyphenyl)acetamido]acetate (4.7 g) and 3-methylphenyl isocyanate (1.9 g), and after recrystallisation in ethyl acetate, tert-butyl 2-{2-[3-(3-methylphenyl)ureido]-N-(2-phenoxyphenyl)acetamido}acetate (1.7 g), m.p. 204° C., is obtained.

reactant | tert-butyl 2-[2-amino-N-(2-phenoxyphenyl)acetamido]acetate | 4.7 g | NCC(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC(=O)OC(C)(C)C | C20H24N2O4
reactant | 3-methylphenyl isocyanate | 1.9 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl 2-{2-[3-(3-methylphenyl)ureido]-N-(2-phenoxyphenyl)acetamido}acetate | 1.7 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C28H31N3O5
